US05284812
2,5-bis(2-methoxyphenyl)thiazolo[5,4-d]thiazole was prepared from dithiooxamide and o-methoxybenzaldehyde. o-Methoxybenzaldehyde was purchased from Aldrich Chemical Company, Milwaukee, Wis.

reactant | dithiooxamide | NC(=S)C(=S)N | C2H4N2S2
reactant | o-methoxybenzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
product | 2,5-bis(2-methoxyphenyl)thiazolo[5,4-d]thiazole | COC1=C(C=CC=C1)C=1SC=2N=C(SC2N1)C1=C(C=CC=C1)OC | C18H14N2O2S2
